US06939866B2
4-(4-benzofuranylamino)-6-methoxy-7-[3-(4-methylpiperazin-1-yl)propoxy]quinazoline
A mixture of 4chloro-6-methoxy-7-[3-(4-methylpiperazin-1-yl)propoxy]quinazoline (0.1 g), 4-aminobenzofuran (0.057 g), isopropanol (4 ml) and a solution of hydrogen chloride in isopropanol (6M, 0.06 ml) was stirred and heated to 85° C. for 3 hours. The resultant mixture was cooled to ambient temperature and the precipitate was isolated by filtration, washed in turn with a 1:1 mixture of diethyl ether and isopropanol and with diethyl ether and dried under vacuum. There was thus obtained the title compound (0.14 g) as a dihydrochloride salt; NMR Spectrum: (DMSOd6 and CF3COOD) 2.35 (m, 2H), 2.9 (s, 3H), 3.3-4.0 (broad m, 10H), 4.05 (s, 3H), 4.35 (m, 2H), 6.9 (s, 1H), 7.4 (m, 2H), 7.45 (t, 1H), 7.65 (d, 1H), 8.05 (d, 1H), 8.3 (s, 1H), 8.8 (s, 1H); Mass Spectrum: M+H+ 448.

reactant | 4chloro-6-methoxy-7-[3-(4-methylpiperazin-1-yl)propoxy]quinazoline | 0.1 g | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCN(CC1)C | C17H23ClN4O2
reactant | 4-aminobenzofuran | 0.057 g | NC1=CC=CC2=C1C=CO2 | C8H7NO
reactant | hydrogen chloride | Cl | ClH
solvent | isopropanol | 6M, 0.06 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 4 ml | C(C)(C)O | C3H8O
product | 4-(4-benzofuranylamino)-6-methoxy-7-[3-(4-methylpiperazin-1-yl)propoxy]quinazoline | 0.14 g | O1C=CC2=C1C=CC=C2NC2=NC=NC1=CC(=C(C=C21)OC)OCCCN2CCN(CC2)C | C25H29N5O3
